data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1990,"CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC(C(=O)C[CH:1]([H:2])[C:3](C)=[NH2+:4])=C1.CC(=O)[O-:5].O.O=C[O-]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1259,"CCCCC(C1=C(O)C=CC(Br)=C1)(N1CCCC1C1=NN=NN1)[OH:1].O=C(C(F)(F)F)[O:2][H:3].O=CC1=CC=C([N+](=O)[O-])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5827,"COC1=CC([C:1]([O-])([C:2](Br)(Br)Br)[O-:3])=CC(OC)=C1C(=O)C1=C(OC)C=CC=C1C#N.O.[Br-].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9531,"CC1=C(F)C=C2C(=O)C(C(=O)O)=CN(CN3CC[N:1](CC4=C(C)OC(=O)O4)CC3)C2=C1.ClC1=CC([C:2](=[OH+:3])[O:4][O-:5])=CC=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,279,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=CC=C[C+:4]1CBr|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,10090,"CCCC1=CC=CC([O+:1](B(Br)Br)[CH3:2])=C1C.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1378,"C=[O:1].C[Si-](C)(C)(Cl)[O+:2]=[C:3](C)[NH:4][H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,7538,"N#C[CH:1]([H:2])[C:3](CC1=CC=CC=C1)=[O:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6744,"CC[O+:1](C(O)CCCCCCC(C)=O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7791,"C[NH+:1]=[C:2]1OCCO1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3032,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CCOC(=O)CC(CC(=O)OCC)(OCCO)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5220,"C1=CC=[N:1]C=C1.O=C(Cl)CC[O+:2](S(=O)Cl)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,604,"CC1(C)OC(=O)CC(=O)O1.CCCCCCCC[C:1]([N+]1=CC=C(N(C)C)C=C1)([O-:2])[Cl:3].CN(C)C1=CC=NC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5482,"CC(=C[O-:1])C1C(CC(C)C)CC(C)C1[CH:2]=[N+:3](C)C1=CC=CC=C1.C[NH2+]C1=CC=CC=C1.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1020,"C[O+:1](C1=CC=CC=C1)[K:2]|((2, 1), 1)"
train,pmechdb_split_0,0,1686,"C1=C[C:1](C2(N3CCCCC3)CCCCC2)([H:2])[CH+:3]C=C1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1966,"COC(=O)C1C2=C(C=C(OC)C=C2)C2(C3=CC=CC=C3)C1CC[C:1]#[N+:2]2.CS(=O)(=O)[O-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6059,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=CC=C[C+:4]1Br|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,4510,"CC1=CC=C[CH+][C]1([Sn]([CH3])([CH3])[CH3])[S:1](=O)(C1=CC=CC=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2606,"C1=CC=C(C2O[C:1](=[O:2])C3=C2C=CC=C3)C=C1.C1CCOC1.C[O-].[Br][Mg:3][C:4]1=CC=CC=C1.[Mg+][Br]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6903,"CC(=O)[O-:1].CCO.O=C(O)C1=CN(C2CC2)C2=CC(N3CCN(C=[N+:2](NC(=O)C4=CC=C(F)C=C4)[H:3])CC3)=C(F)C=C2C1=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5047,"C[CH:1]=[O+:2]CCC[NH:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1181,"CCO[P+:1](CCCC1=CC=CC=C1)(OCC)[O:2][CH2:3]C.[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7908,"CC(C)(C)[Si](C)(C)OC(C=[O:1])C1CCCCC1.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,3832,"O=C(CC(C(=O)C1=CC=CC=C1)C(C1=CC=CC=C1)=[O:1])C1=CC=CC=C1.O=S(=O)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8597,"CC[C:1]#[C:2]CC(C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1997,"CC(C)[C:1]([CH:2](C1=CC=CC=C1)[H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3006,"Cl[P+:1](Cl)(Cl)[Mg:2][Br]|((2, 1), 1)"
train,pmechdb_split_0,0,6162,"Br[B:1](Br)Br.C[O:2]C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5)C=C1|(2, 1)"
train,pmechdb_split_0,0,7561,"CO.COC1=CC=C2CCNC[C:1]2([H:2])[CH+:3]1.[Cl-].[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,637,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CCOC(=O)C1=C2C=CC=CC(OCC)=C2C=C1C(CC(C1=CC=C(OC)C=C1)=[O:3])C(C)=O.CN(C)C=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10023,"CCC[CH:1]=[C:2](C1=C([O:3][H:4])C=CC(Br)=C1)[O-:5].O=C([O-])C(F)(F)F.O=[N+]([O-])C1=CC=C(C=[N+]2CCCC2C2=NN=NN2)C=C1.[OH3+]|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4403,"C1=CC=[NH+]C=C1.CN(C)C1=CC=[N+:1]([C:2](NC2=C([N+](=O)[O-])C=CC=C2)(C2=CC=CC=C2)[O-:3])C=C1.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10219,"SC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2760,"CC1=CC2=C(C=C1)N=[C+:1]CCC2C1=CC=CC=C1.O=P([O-])(O)OP(=O)(O)O.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,5980,"C#CC1([O+:1](S(OC(C2=CC=CC=C2)(C(F)(F)F)C(F)(F)F)(C2=CC=CC=C2)C2=CC=CC=C2)[H:2])CCC2OC21.FC(F)(F)C(C1=CC=CC=C1)(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6748,"CO.COC1=C2OC3C(=O)CCC4C5CC(=C2C34CC[N:1]5C)C=C1.COC1=C2OC3C45CCN(C)C(CC(=C24)C=C1)C5C[CH:2]([H:3])[C:4]3=[OH+:5].COC=[O+]C|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2938,"CC[N+:1](CC)(CC)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9138,"BrBr.CC(=O)[O:1][H:2].COC1CC23C(C(C)(C)C)CC4OC(=O)C5(CC=CC452)OC3[O:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9970,"CCC(=O)N[C:1]1=[CH:2]C=CC=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,8878,"CC(C)[OH+:1][H:2].CC(C)[O][Al-]([O]C(C)C)([O]C(C)C)[O:3]C1CC2(OCCO2)C2(C)CC3OC(C)(C)OC3CC2C1=O|(3, 2);((2, 1), 1)"
